US08183264B2
2-Chloromethyl-5-phenoxymethyl-pyridine
To a solution of carbon tetrachloride (20 mL) of a known compound (5-phenoxymethyl-pyridin-2-yl)-methanol (1.4 g) was added triphenylphosphine (2.1 g) at room temperature, which was heated to reflux for 6 hours and 15 minutes under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, after which the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the titled compound (1.3 g).

reactant | (5-phenoxymethyl-pyridin-2-yl)-methanol | 1.4 g | O(C1=CC=CC=C1)CC=1C=CC(=NC1)CO | C13H13NO2
reactant | triphenylphosphine | 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Chloromethyl-5-phenoxymethyl-pyridine | 1.3 g | ClCC1=NC=C(C=C1)COC1=CC=CC=C1 | C13H12ClNO
